US08802670B2
To a solution of 4-methanesulfonyl-3,3-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (914 mg) in dichloromethane (20 mL) at 0° C. was added dropwise HCl (6.65 mL of a 2 M solution in diethyl ether). The reaction mixture was stirred at room temperature for 2 h. The precipitate formed was then collected by filtration and dried to afford 1-methanesulfonyl-2,2-dimethyl-piperazine hydrochloride salt as a white solid (540 mg, 75%).

reactant | 4-methanesulfonyl-3,3-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 914 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)S(=O)(=O)C)(C)C | C12H24N2O4S
reactant | HCl | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-methanesulfonyl-2,2-dimethyl-piperazine hydrochloride salt | 540 mg, 75% | Cl.CS(=O)(=O)N1C(CNCC1)(C)C | InChI=1S/C7H16N2O2S.ClH/c1-7(2)6-8-4-5-9(7)12(3,10)11;/h8H,4-6H2,1-3H3;1H
